US08258182B2
Compound 19: 2-[2-methyl-4-[3-[4-(propylthio)phenyl]-3-oxo-propyl]phenoxy]-2-methylpropanoic acid
This compound was prepared following the general procedure B, using 2-methyl-2-(2-methyl-4-(3-oxo-3-(4-(propylthio)phenyl)prop-1-enyl)phenoxy)propanoic acid tertiobutyl ester, and 3 equivalents amounts of sodium iodide and 3 equivalent amounts of tetrachlorosilane;

reactant | 2-methyl-2-(2-methyl-4-(3-oxo-3-(4-(propylthio)phenyl)prop-1-enyl)phenoxy)propanoic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)C=CC(C1=CC=C(C=C1)SCCC)=O)C | C23H26O4S
reactant | sodium iodide | [I-].[Na+]
reactant | tetrachlorosilane | Cl[Si](Cl)(Cl)Cl | Cl4Si
product | 2-[2-methyl-4-[3-[4-(propylthio)phenyl]-3-oxo-propyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C=CC(=C1)CCC(=O)C1=CC=C(C=C1)SCCC | C23H28O4S
